US07947834B2
0.07 g of 4-difluoromethylene-1,2,3,4-tetrahydroquinoline and 5 ml of dichloromethane are introduced into a three-necked flask equipped with a magnetic stirrer and placed under an inert atmosphere. After cooling to +4° C., 0.11 ml of triethylamine and 0.39 ml of a 20% solution of phosgene in toluene are successively added. The reaction medium is stirred at ambient temperature for 2 h. The reaction medium is cooled in an ice bath and 0.08 g of 3-(pyrrolidin-3-yl)pyridine in 2 ml of dichloromethane is then introduced. The mixture is stirred at ambient temperature for 18 h. The reaction medium is washed with a 1N sodium hydroxide solution; the organic phase is dried over sodium sulfate and concentrated under reduced pressure. The residue is chromatographed on silica gel eluted with a dichloromethane/methanol 98/2 mixture. 0.05 g of (4-difluoromethylene-3,4-dihydro-2H-quinolin-1-yl)(3-(pyridin-3-yl)pyrrolidin-1-yl)methanone is obtained and is treated with fumaric acid in an ethanol/diisopropyl ether mixture to give the fumarate.

reactant | 4-difluoromethylene-1,2,3,4-tetrahydroquinoline | 0.07 g | FC(=C1CCNC2=CC=CC=C12)F | C10H9F2N
reactant | triethylamine | 0.11 ml | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 3-(pyrrolidin-3-yl)pyridine | 0.08 g | N1CC(CC1)C=1C=NC=CC1 | C9H12N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (4-difluoromethylene-3,4-dihydro-2H-quinolin-1-yl)(3-(pyridin-3-yl)pyrrolidin-1-yl)methanone | 0.05 g | FC(=C1CCN(C2=CC=CC=C12)C(=O)N1CC(CC1)C=1C=NC=CC1)F | C20H19F2N3O
